* h016_alternating_varactor_magnetic_cells_64c_50ohm
* Hybrid varactor-plus-magnetic 50/100/150 MHz refinement track.
* role=discovery; source_only=True; no direct 100/150 MHz discovery drive.
* placement=alternating_varactor_magnetic_cells; magnetic_curve=soft; cleanup=extraction_plus_rejection
.option method=gear maxord=2 reltol=2e-4 abstol=1e-12 vntol=1e-6 chgtol=1e-16 itl4=280
.model DVAR D(Is=1e-15 Rs=0.34 Cjo=9.76184376254e-11 Vj=0.65 M=0.58 Bv=18 Ibv=1e-06)
.param kmag=1.1275e-06
.param gcore=1.5e-07
Vbias vb 0 DC 3.4
Vsrc src 0 SIN(0 2.5 50000000)
Rsrc src n0 50
Rrawload n64 0 150
Cbase0 n0 0 3.0517578125e-11
Rbleed0 n0 0 160000
Rser1 n0 ns1 0.01903125
Lser1 ns1 n1 7.62939453125e-08
Cfixed1 n1 0 5.4931640625e-12
Dvar1 n1 vb DVAR
Rbleed1 n1 0 160000
Rser2 n1 ns2 0.01903125
Lser2 ns2 n2 7.62939453125e-08
Cfixed2 n2 0 5.4931640625e-12
Dvar2 n2 vb DVAR
Rbleed2 n2 0 160000
Rser3 n2 ns3 0.01903125
Lser3 ns3 n3 7.62939453125e-08
Cfixed3 n3 0 5.4931640625e-12
Dvar3 n3 vb DVAR
Rbleed3 n3 0 160000
Rser4 n3 ns4 0.01903125
Lser4 ns4 n4 7.62939453125e-08
Cfixed4 n4 0 5.4931640625e-12
Dvar4 n4 vb DVAR
Rbleed4 n4 0 160000
Rser5 n4 ns5 0.01903125
Lser5 ns5 n5 7.62939453125e-08
Cfixed5 n5 0 5.4931640625e-12
Dvar5 n5 vb DVAR
Rbleed5 n5 0 160000
Rser6 n5 ns6 0.01903125
Lser6 ns6 n6 7.62939453125e-08
Cfixed6 n6 0 5.4931640625e-12
Dvar6 n6 vb DVAR
Rbleed6 n6 0 160000
Rser7 n6 ns7 0.01903125
Lser7 ns7 n7 7.62939453125e-08
Cfixed7 n7 0 5.4931640625e-12
Dvar7 n7 vb DVAR
Rbleed7 n7 0 160000
Rser8 n7 ns8 0.01903125
Lser8 ns8 n8 7.62939453125e-08
Cfixed8 n8 0 5.4931640625e-12
Dvar8 n8 vb DVAR
Rbleed8 n8 0 160000
Rser9 n8 ns9 0.01903125
Lser9 ns9 n9 7.62939453125e-08
Cfixed9 n9 0 5.4931640625e-12
Dvar9 n9 vb DVAR
Rbleed9 n9 0 160000
Rser10 n9 ns10 0.01903125
Lser10 ns10 n10 7.62939453125e-08
Cfixed10 n10 0 5.4931640625e-12
Dvar10 n10 vb DVAR
Rbleed10 n10 0 160000
Rser11 n10 ns11 0.01903125
Lser11 ns11 n11 7.62939453125e-08
Cfixed11 n11 0 5.4931640625e-12
Dvar11 n11 vb DVAR
Rbleed11 n11 0 160000
Rser12 n11 ns12 0.01903125
Lser12 ns12 n12 7.62939453125e-08
Cfixed12 n12 0 5.4931640625e-12
Dvar12 n12 vb DVAR
Rbleed12 n12 0 160000
Rser13 n12 ns13 0.01903125
Lser13 ns13 n13 7.62939453125e-08
Cfixed13 n13 0 5.4931640625e-12
Dvar13 n13 vb DVAR
Rbleed13 n13 0 160000
Rser14 n13 ns14 0.01903125
Lser14 ns14 n14 7.62939453125e-08
Cfixed14 n14 0 5.4931640625e-12
Dvar14 n14 vb DVAR
Rbleed14 n14 0 160000
Rser15 n14 ns15 0.01903125
Lser15 ns15 n15 7.62939453125e-08
Cfixed15 n15 0 5.4931640625e-12
Dvar15 n15 vb DVAR
Rbleed15 n15 0 160000
Rser16 n15 ns16 0.01903125
Lser16 ns16 n16 7.62939453125e-08
Cfixed16 n16 0 5.4931640625e-12
Dvar16 n16 vb DVAR
Rbleed16 n16 0 160000
Rser17 n16 ns17 0.01903125
Lser17 ns17 n17 7.62939453125e-08
Cfixed17 n17 0 5.4931640625e-12
Dvar17 n17 vb DVAR
Rbleed17 n17 0 160000
Rser18 n17 ns18 0.01903125
Lser18 ns18 n18 7.62939453125e-08
Cfixed18 n18 0 5.4931640625e-12
Dvar18 n18 vb DVAR
Rbleed18 n18 0 160000
Rser19 n18 ns19 0.01903125
Lser19 ns19 n19 7.62939453125e-08
Cfixed19 n19 0 5.4931640625e-12
Dvar19 n19 vb DVAR
Rbleed19 n19 0 160000
Rser20 n19 ns20 0.01903125
Lser20 ns20 n20 7.62939453125e-08
Cfixed20 n20 0 5.4931640625e-12
Dvar20 n20 vb DVAR
Rbleed20 n20 0 160000
Rser21 n20 ns21 0.01903125
Lser21 ns21 n21 7.62939453125e-08
Cfixed21 n21 0 5.4931640625e-12
Dvar21 n21 vb DVAR
Rbleed21 n21 0 160000
Rser22 n21 ns22 0.01903125
Lser22 ns22 n22 7.62939453125e-08
Cfixed22 n22 0 5.4931640625e-12
Dvar22 n22 vb DVAR
Rbleed22 n22 0 160000
Rser23 n22 ns23 0.01903125
Lser23 ns23 n23 7.62939453125e-08
Cfixed23 n23 0 5.4931640625e-12
Dvar23 n23 vb DVAR
Rbleed23 n23 0 160000
Rser24 n23 ns24 0.01903125
Lser24 ns24 n24 7.62939453125e-08
Cfixed24 n24 0 5.4931640625e-12
Dvar24 n24 vb DVAR
Rbleed24 n24 0 160000
Rser25 n24 ns25 0.01903125
Lser25 ns25 n25 7.62939453125e-08
Cfixed25 n25 0 5.4931640625e-12
Dvar25 n25 vb DVAR
Rbleed25 n25 0 160000
Rser26 n25 ns26 0.01903125
Lser26 ns26 n26 7.62939453125e-08
Cfixed26 n26 0 5.4931640625e-12
Dvar26 n26 vb DVAR
Rbleed26 n26 0 160000
Rser27 n26 ns27 0.01903125
Lser27 ns27 n27 7.62939453125e-08
Cfixed27 n27 0 5.4931640625e-12
Dvar27 n27 vb DVAR
Rbleed27 n27 0 160000
Rser28 n27 ns28 0.01903125
Lser28 ns28 n28 7.62939453125e-08
Cfixed28 n28 0 5.4931640625e-12
Dvar28 n28 vb DVAR
Rbleed28 n28 0 160000
Rser29 n28 ns29 0.01903125
Lser29 ns29 n29 7.62939453125e-08
Cfixed29 n29 0 5.4931640625e-12
Dvar29 n29 vb DVAR
Rbleed29 n29 0 160000
Rser30 n29 ns30 0.01903125
Lser30 ns30 n30 7.62939453125e-08
Cfixed30 n30 0 5.4931640625e-12
Dvar30 n30 vb DVAR
Rbleed30 n30 0 160000
Rser31 n30 ns31 0.01903125
Lser31 ns31 n31 7.62939453125e-08
Cfixed31 n31 0 5.4931640625e-12
Dvar31 n31 vb DVAR
Rbleed31 n31 0 160000
Rser32 n31 ns32 0.01903125
Lser32 ns32 n32 7.62939453125e-08
Cfixed32 n32 0 5.4931640625e-12
Dvar32 n32 vb DVAR
Rbleed32 n32 0 160000
Rser33 n32 ns33 0.01903125
Lser33 ns33 n33 7.62939453125e-08
Cfixed33 n33 0 5.4931640625e-12
Dvar33 n33 vb DVAR
Rbleed33 n33 0 160000
Rser34 n33 ns34 0.01903125
Lser34 ns34 n34 7.62939453125e-08
Cfixed34 n34 0 5.4931640625e-12
Dvar34 n34 vb DVAR
Rbleed34 n34 0 160000
Rser35 n34 ns35 0.01903125
Lser35 ns35 n35 7.62939453125e-08
Cfixed35 n35 0 5.4931640625e-12
Dvar35 n35 vb DVAR
Rbleed35 n35 0 160000
Rser36 n35 ns36 0.01903125
Lser36 ns36 n36 7.62939453125e-08
Cfixed36 n36 0 5.4931640625e-12
Dvar36 n36 vb DVAR
Rbleed36 n36 0 160000
Rser37 n36 ns37 0.01903125
Lser37 ns37 n37 7.62939453125e-08
Cfixed37 n37 0 5.4931640625e-12
Dvar37 n37 vb DVAR
Rbleed37 n37 0 160000
Rser38 n37 ns38 0.01903125
Lser38 ns38 n38 7.62939453125e-08
Cfixed38 n38 0 5.4931640625e-12
Dvar38 n38 vb DVAR
Rbleed38 n38 0 160000
Rser39 n38 ns39 0.01903125
Lser39 ns39 n39 7.62939453125e-08
Cfixed39 n39 0 5.4931640625e-12
Dvar39 n39 vb DVAR
Rbleed39 n39 0 160000
Rser40 n39 ns40 0.01903125
Lser40 ns40 n40 7.62939453125e-08
Cfixed40 n40 0 5.4931640625e-12
Dvar40 n40 vb DVAR
Rbleed40 n40 0 160000
Rser41 n40 ns41 0.01903125
Lser41 ns41 n41 7.62939453125e-08
Cfixed41 n41 0 5.4931640625e-12
Dvar41 n41 vb DVAR
Rbleed41 n41 0 160000
Rser42 n41 ns42 0.01903125
Lser42 ns42 n42 7.62939453125e-08
Cfixed42 n42 0 5.4931640625e-12
Dvar42 n42 vb DVAR
Rbleed42 n42 0 160000
Rser43 n42 ns43 0.01903125
Lser43 ns43 n43 7.62939453125e-08
Cfixed43 n43 0 5.4931640625e-12
Dvar43 n43 vb DVAR
Rbleed43 n43 0 160000
Rser44 n43 ns44 0.01903125
Lser44 ns44 n44 7.62939453125e-08
Cfixed44 n44 0 5.4931640625e-12
Dvar44 n44 vb DVAR
Rbleed44 n44 0 160000
Rser45 n44 ns45 0.01903125
Lser45 ns45 n45 7.62939453125e-08
Cfixed45 n45 0 5.4931640625e-12
Dvar45 n45 vb DVAR
Rbleed45 n45 0 160000
Rser46 n45 ns46 0.01903125
Lser46 ns46 n46 7.62939453125e-08
Cfixed46 n46 0 5.4931640625e-12
Dvar46 n46 vb DVAR
Rbleed46 n46 0 160000
Rser47 n46 ns47 0.01903125
Lser47 ns47 n47 7.62939453125e-08
Cfixed47 n47 0 5.4931640625e-12
Dvar47 n47 vb DVAR
Rbleed47 n47 0 160000
Rser48 n47 ns48 0.01903125
Lser48 ns48 n48 7.62939453125e-08
Cfixed48 n48 0 5.4931640625e-12
Dvar48 n48 vb DVAR
Rbleed48 n48 0 160000
Rser49 n48 ns49 0.01903125
Lser49 ns49 n49 7.62939453125e-08
Cfixed49 n49 0 5.4931640625e-12
Dvar49 n49 vb DVAR
Rbleed49 n49 0 160000
Rser50 n49 ns50 0.01903125
Lser50 ns50 n50 7.62939453125e-08
Cfixed50 n50 0 5.4931640625e-12
Dvar50 n50 vb DVAR
Rbleed50 n50 0 160000
Rser51 n50 ns51 0.01903125
Lser51 ns51 n51 7.62939453125e-08
Cfixed51 n51 0 5.4931640625e-12
Dvar51 n51 vb DVAR
Rbleed51 n51 0 160000
Rser52 n51 ns52 0.01903125
Lser52 ns52 n52 7.62939453125e-08
Cfixed52 n52 0 5.4931640625e-12
Dvar52 n52 vb DVAR
Rbleed52 n52 0 160000
Rser53 n52 ns53 0.01903125
Lser53 ns53 n53 7.62939453125e-08
Cfixed53 n53 0 5.4931640625e-12
Dvar53 n53 vb DVAR
Rbleed53 n53 0 160000
Rser54 n53 ns54 0.01903125
Lser54 ns54 n54 7.62939453125e-08
Cfixed54 n54 0 5.4931640625e-12
Dvar54 n54 vb DVAR
Rbleed54 n54 0 160000
Rser55 n54 ns55 0.01903125
Lser55 ns55 n55 7.62939453125e-08
Cfixed55 n55 0 5.4931640625e-12
Dvar55 n55 vb DVAR
Rbleed55 n55 0 160000
Rser56 n55 ns56 0.01903125
Lser56 ns56 n56 7.62939453125e-08
Cfixed56 n56 0 5.4931640625e-12
Dvar56 n56 vb DVAR
Rbleed56 n56 0 160000
Rser57 n56 ns57 0.01903125
Lser57 ns57 n57 7.62939453125e-08
Cfixed57 n57 0 5.4931640625e-12
Dvar57 n57 vb DVAR
Rbleed57 n57 0 160000
Rser58 n57 ns58 0.01903125
Lser58 ns58 n58 7.62939453125e-08
Cfixed58 n58 0 5.4931640625e-12
Dvar58 n58 vb DVAR
Rbleed58 n58 0 160000
Rser59 n58 ns59 0.01903125
Lser59 ns59 n59 7.62939453125e-08
Cfixed59 n59 0 5.4931640625e-12
Dvar59 n59 vb DVAR
Rbleed59 n59 0 160000
Rser60 n59 ns60 0.01903125
Lser60 ns60 n60 7.62939453125e-08
Cfixed60 n60 0 5.4931640625e-12
Dvar60 n60 vb DVAR
Rbleed60 n60 0 160000
Rser61 n60 ns61 0.01903125
Lser61 ns61 n61 7.62939453125e-08
Cfixed61 n61 0 5.4931640625e-12
Dvar61 n61 vb DVAR
Rbleed61 n61 0 160000
Rser62 n61 ns62 0.01903125
Lser62 ns62 n62 7.62939453125e-08
Cfixed62 n62 0 5.4931640625e-12
Dvar62 n62 vb DVAR
Rbleed62 n62 0 160000
Rser63 n62 ns63 0.01903125
Lser63 ns63 n63 7.62939453125e-08
Cfixed63 n63 0 5.4931640625e-12
Dvar63 n63 vb DVAR
Rbleed63 n63 0 160000
Rser64 n63 ns64 0.01903125
Lser64 ns64 n64 7.62939453125e-08
Cfixed64 n64 0 5.4931640625e-12
Dvar64 n64 vb DVAR
Rbleed64 n64 0 160000
Bmag2 n2 0 I={(1.08331976047)*kmag*V(n2)*V(n2)*V(n2)/(1+(V(n2)/5)**2) + gcore*V(n2)}
Bmag18 n18 0 I={(1.12020410472)*kmag*V(n18)*V(n18)*V(n18)/(1+(V(n18)/5)**2) + gcore*V(n18)}
Bmag34 n34 0 I={(1.14961473994)*kmag*V(n34)*V(n34)*V(n34)/(1+(V(n34)/5)**2) + gcore*V(n34)}
Bmag50 n50 0 I={(1.16972305528)*kmag*V(n50)*V(n50)*V(n50)/(1+(V(n50)/5)**2) + gcore*V(n50)}
Rext n64 ext_r 9.59730692144
Lext ext_r ext_l 2.26290198062e-07
Cext ext_l v150 5.076e-12
Rload150 v150 0 100
Rpost150 v150 post_r 8.6375762293
Lpost150 post_r post_l 4.03249132946e-07
Cpost150 post_l v150f 2.7918e-12
Rload150f v150f 0 132
Rtrap50 n64 tr50_r 17.6838825658
Ltrap50 tr50_r tr50_l 1.12579092936e-06
Ctrap50 tr50_l 0 9e-12
Rtrap100 n64 tr100_r 12.2572080073
Ltrap100 tr100_r tr100_l 3.68807060841e-07
Ctrap100 tr100_l 0 6.8e-12
.control
set filetype=ascii
set wr_singlescale
set wr_vecnames
tran 5e-10 5.5e-07 0 2e-10
wrdata h016_alternating_varactor_magnetic_cells_64c_50ohm_tran.csv time v(n0) v(n32) v(v150f) i(Vsrc) i(Vbias)
.endc
.end
